US06489322B1
f) N-(4-Propyl-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-2-thiophenecarboximidamide hemifumarate
To N-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-2-thiophenecarboximidamide (1.57 g, 6 mmol) in DMF (75 ml) was added potassium carbonate (9 g) and 1-bromopropane (1.48 g, 12 mmol) and a catalytic amount of sodium iodide. The mixture was stirred for 48 h and was then filtered. The solids were dissolved in water (50 ml) and extracted with methylene chloride (3×50 ml). The combined extracts were dried with magnesium sulfate, filtered and concentrated to a solid. The solids were recrystallized from hot isopropanol. The solids were dissolved in ethyl acetate, treated with isopropanol-fumaric acid, and triturated with ether. The hemifumarate salt was collected by filtration (0.86 g, 39%), m.p. 174° C.

reactant | N-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-2-thiophenecarboximidamide | 6 mmol, 1.57 g | O1CCNCC2=C1C=CC(=C2)NC(=N)C=2SC=CC2 | C14H15N3OS
reactant | potassium carbonate | 9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromopropane | 12 mmol, 1.48 g | BrCCC | C3H7Br
reactant | sodium iodide | [I-].[Na+]
reactant | DMF | 75 ml | CN(C)C=O | C3H7NO
product | N-(4-Propyl-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-2-thiophenecarboximidamide hemifumarate | C(\C=C\C(=O)O)(=O)O.C(CC)N1CCOC2=C(C1)C=C(C=C2)NC(=N)C=2SC=CC2.C(CC)N2CCOC1=C(C2)C=C(C=C1)NC(=N)C=1SC=CC1 | InChI=1S/2C17H21N3OS.C4H4O4/c2*1-2-7-20-8-9-21-15-6-5-14(11-13(15)12-20)19-17(18)16-4-3-10-22-16;5-3(6)1-2-4(7)8/h2*3-6,10-11H,2,7-9,12H2,1H3,(H2,18,19);1-2H,(H,5,6)(H,7,8)/b;;2-1+
